US09102616B2
(25) Synthesis of N1,N3-di(biphenyl-4-yl)-5-bromo-N1,N3-bis(dibenzo[b,d]thiophen-2-yl)benzene-1,3-diamine
27.82 g of a product (yield: 65%) was obtained in the same manner as described in the synthesis method of intermediate 2-1 except that 1,3,5-tribromobenzene (15.74 g, 50 mmol), N-(biphenyl-4-yl)dibenzo[b,d]thiophen-2-amine (35.15 g, 100 mmol), Pd2(dba)3 (2.75 g, 3 mmol), PPh3 (2.62 g, 10 mmol), NaOt-Bu (28.83 g, 300 mmol), and toluene (525 mL) were used.

reactant | 1,3,5-tribromobenzene | 50 mmol, 15.74 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | N-(biphenyl-4-yl)dibenzo[b,d]thiophen-2-amine | 100 mmol, 35.15 g | C1(=CC=C(C=C1)NC1=CC2=C(SC3=C2C=CC=C3)C=C1)C1=CC=CC=C1 | C24H17NS
reactant | PPh3 | 10 mmol, 2.62 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NaOt-Bu | 300 mmol, 28.83 g | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 3 mmol, 2.75 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 525 mL | C1(=CC=CC=C1)C | C7H8
product | N1,N3-di(biphenyl-4-yl)-5-bromo-N1,N3-bis(dibenzo[b,d]thiophen-2-yl)benzene-1,3-diamine | C1(=CC=C(C=C1)N(C1=CC(=CC(=C1)Br)N(C1=CC2=C(SC3=C2C=CC=C3)C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC3=C(SC2=C3C=CC=C2)C=C1)C1=CC=CC=C1 | C54H35BrN2S2
